US07704995B2
3-bromo-N-[(1S)-2,3-dihydro-1H-indene-1-yl]benzenesulfonamide was synthesized according to the procedure described above from (S)-1-aminoindan and 3-bromobenzensulfonyl chloride. Yield 52%. 1H NMR (400 MHz, CDCl3): 7.20 (m, 1H), 7.90 (dd, 1H), 7.80 (dd, 1H), 7.50 (t, 1H), 7.20 (m, 2H), 7.15 (m, 1H), 7.02 br d, 1H), 4.80 (t, 1H), 2.90(m, 1H), 2.70 (m, 1H), 2.20 (m, 1H), 1.70 (m, 1H).

reactant | (S)-1-aminoindan | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | 3-bromobenzensulfonyl chloride | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
product | 3-bromo-N-[(1S)-2,3-dihydro-1H-indene-1-yl]benzenesulfonamide | Yield 52% | BrC=1C=C(C=CC1)S(=O)(=O)N[C@H]1CCC2=CC=CC=C12 | C15H14BrNO2S
